US08349880B2
2-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-4-phenyl-4,5,6,7-tetrahydrobenzo[d]thiazol-4-ol
Phenylmagnesium bromide (1.0 M in THF, 0.118 mL, 0.118 mmol) was added to a rt solution of 2-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-6,7-dihydrobenzo[d]thiazol-4(5H)-one (14 mg, 0.039 mmol) in diethyl ether (0.13 mL). The reaction was quenched with saturated ammonium chloride and extracted with EtOAc. The organic layer was concentrated in vacuo. The crude product was purified using preparatory TLC (60% acetone/hexanes) to afford 10 mg (53% yield) of the titled compound as a oil. LC-MS (M+H)+ 434.3.

reactant | Phenylmagnesium bromide | 0.118 mmol, 1.0 M, 0.118 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 2-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-6,7-dihydrobenzo[d]thiazol-4(5H)-one | 0.039 mmol, 14 mg | COC=1C=C(C=CC1N1N=C(N=C1)C)NC=1SC2=C(N1)C(CCC2)=O | C17H17N5O2S
solvent | diethyl ether | 0.13 mL | C(C)OCC | C4H10O
product | 2-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-4-phenyl-4,5,6,7-tetrahydrobenzo[d]thiazol-4-ol | 10 mg, 53% yield | COC=1C=C(C=CC1N1N=C(N=C1)C)NC=1SC2=C(N1)C(CCC2)(O)C2=CC=CC=C2 | C23H23N5O2S
